* source LAB1_FINALATMPT
L_L1         N17139 N17002  1mH  
R_R1         0 N17002  300 TC=0,0 
R_R2         N17139 N16498  50 TC=0,0 
V_V1         N16498 0 DC 5 AC 5 
